US03985730
To 275 parts of a 3 1/2% solution of lithium aluminate(1-) in tetrahydrofuran at 0°-5° is slowly added, with vigorous stirring, 15 parts of concentrated sulfuric acid. The resultant mixture is stirred at 0°-5° for 1 hour, whereupon a solution of 34 parts of ethyl 10-bromo-5H-dibenz[b,f]azepine-5-carboxylate in 225 parts of tetrahydrofuran is introduced. The mixture thus obtained is stirred for 1 hour, whereupon a solution of 20 parts of water in 40 parts of tetrahydrofuran, followed by 30 parts of aqueous 25% sodium hydroxide and then finally by 30 parts of water, is added. Insoluble solids are filtered out and washed with several portions of tetrahydrofuran. Washings and filtrate are combined, dried over magnesium sulfate, and stripped of solvent by vacuum distillation to give 10-bromo-5-methyl-5H-dibenz[b,f]azepine as the residue.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 10-bromo-5H-dibenz[b,f]azepine-5-carboxylate | BrC1=CC2=C(N(C3=C1C=CC=C3)C(=O)OCC)C=CC=C2 | C17H14BrNO2
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 10-bromo-5-methyl-5H-dibenz[b,f]azepine | BrC1=CC2=C(N(C3=C1C=CC=C3)C)C=CC=C2 | C15H12BrN
